Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
scallops / clams
 
Attending: ___.
 
Chief Complaint:
high grade endometrial cancer
 
Major Surgical or Invasive Procedure:
Robotic Assisted Total Laparoscopic Hysterectomy, Bilateral 
salpingo-oophorectomy, lysis of adhesions, omental biopsy, 
cystoscopy 

 
History of Present Illness:
___ gravida 24 para ___ with recent diagnosis of 
high-grade endometrial carcinoma.  Patient reports she had new 
onset vaginal spotting in late ___ for a few days, and then 
began bleeding very heavily on ___.  Her hematocrit was 
stable at 42 and her bleeding improved thus she was discharged 
from ___ ED for outpatient follow-up.  On ___ 
she
had a pelvic ultrasound that demonstrated a 9.9 x 4.4 x 6.7 cm 
uterus with an intramural fibroid measuring 3.9 cm.  The 
endometrium was markedly thickened up to 3.3 cm. The right ovary 
was normal, the left not seen and no free fluid.  An endometrial 
biopsy was obtained on ___ that demonstrated a high-grade
endometrial adenocarcinoma.  Patient reports she has overall 
been feeling well, she continues to have daily vaginal spotting, 
changes a pad ___ times per day.

 
Past Medical History:
___: Denies

Health maintenance:
-Last mammogram ___ years ago
-Last colonoscopy ___ years ago, reports due ___ years

PSH: 
-Right knee surgery, ?MCL repair at ___, ___ years ago
-appendectomy via midline laparotomy at ___.  Patient reports 
she
had a cardiac arrest on the operating room table.  Reports this
was ___ years ago.
-Tonsillectomy, ___ years ago

POb: Gravida 24 para 1, 1, 22, 1
-___: Premature vaginal delivery, reports delivered at 22.5
weeks a 1 lb. 2 oz. infant.  Reportedly had a cerclage that was
infected.  At ___.
-FT ___ who died at age ___
-Reports 22 miscarriages due to cervical insufficiency, many of
them at 4 or 5 months

PGyn:
-Menopause: Early ___, no history of postmenopausal bleeding
until ___
-Menarche at age ___, monthly menstrual cycles lasting 7 days 
with
heavy flow
-Endorses history of abnormal Paps at ___ in the past.  Denies
history of procedures on her cervix.  Last Pap obtained 
___
negative for high risk HPV, AGC/ASCUS

Medications: Ativan as needed

Allergies: NKDA, clams
 
Social History:
___
Family History:
Reports several family members on her father's side of the 
family with breast cancer.  Father with colon cancer in his ___. 
 Mother with throat cancer.  No history of ovarian or uterine 
cancers.
 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
Office Physical Exam ___:
Vital Signs: BP: 193/85. Heart Rate: 82. Weight: 191.3 (With 
Clothes). Height: 60.5. BMI: 36.7.

CONSTITUTIONAL: Well appearing, NAD
NEURO: A&Ox3, normal gait
PSYCH: Normal affect
HEENT: NCAT, EOMI, Sclera anicteric, Neck supple, no masses
LYMPH NODES: No supraclavicular, cervical or inguinal 
adenopathy.
PULM: CTAB, no wheeze, crackles
CV: RRR, normal S1 and S2, no murmurs
GI: Soft, ND, NT. No hepatosplenomegaly, no masses palpable
GU: No CVA tenderness, NEFG, normal urethral meatus. Normal 
vaginal vault. 3-4cm blood clot cleared from cervical os with 
moderate bleeding from os. Observed after removal of clot and no 
significant ongoing bleeding. No discharge, cervix without 
lesions. Bimanual: Smooth vaginal walls, cervix without lesions. 
___ week size, moderately mobile uterus. No adnexal masses or
tenderness. 
MSK: Extremities WWP. ___ without edema, nontender.

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================

On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 09:01PM BLOOD WBC-14.5*# RBC-3.82* Hgb-11.7 Hct-35.4 
MCV-93 MCH-30.6 MCHC-33.1 RDW-13.2 RDWSD-44.9 Plt ___
___ 07:50AM BLOOD WBC-11.2* RBC-3.67* Hgb-11.1* Hct-34.3 
MCV-94 MCH-30.2 MCHC-32.4 RDW-12.9 RDWSD-44.4 Plt ___
___ 09:01PM BLOOD UreaN-13 Creat-1.0
___ 07:50AM BLOOD UreaN-13 Creat-0.8
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing an uncomplicated robotic assisted total laparoscopic 
hysterectomy, bilateral salpingo-oophorectomy, lysis of 
adhesions, omental biopsy, and cystoscop. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid. Her 
diet was advanced without difficulty and she was transitioned to 
PO oxycodone/acetaminophen/ibuprofen . On post-operative day #1, 
she began ambulating and her Foley catheter was removed. She was 
backfilled 300cc and voided 250cc with 50cc residual. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: that is a PACU order
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: stopped percocet
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
High grade endometrial cancer **FINAL PATHOLOGY PENDING**

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks 
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___